US07179801B2
To a solution of 5-amino-4-aminomethyl-1-methylpyrazole dihydrochloride (10 g) in methanol (100 ml) was added 28% sodium methoxide solution in methanol (19.4 ml). The mixture was filtered, and the filtrate was concentrated in vacuo. Separately, acetic anhydride (14.2 ml) was added to formic acid (11.5 ml), and the mixture was stirred at room temperature for 30 minutes. The resulting mixture was added to the oily residue obtained above (5-amino-4-aminomethyl-1-methylpyrazole), and the mixture was stirred at room temperature for 2 hours. After evaporation of the solvent in vacuo, water was added to the residue. The mixture was adjusted to pH 9.5 with Diaion® SA10A(OH−) (Mitsubishi Chemical Coporation). The mixture was filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with dichloromethane/methanol (3:1) to give 5-formamido-4-formamidomethyl-1-methylpyrazole (3.97 g).

reactant | 5-amino-4-aminomethyl-1-methylpyrazole dihydrochloride | 10 g | Cl.Cl.NC1=C(C=NN1C)CN
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 19.4 ml | CO | CH4O
product | 5-amino-4-aminomethyl-1-methylpyrazole | NC1=C(C=NN1C)CN | C5H10N4
